US05679696
A stirred solution of methyl 4-methylthio-3-nitrobenzoate (6.82 g) in methanol (350 mL) is hydrogenated using a 5% w/w palladium on charcoal catalyst (0.8 g) at room temperature for 48 hours. After filtration the solution is concentrated, to give methyl 3-amino-4-(methylthio)benzoate (3.5 g), in the form of a pale yellow solid m.p. 63°-65° C.

reactant | methyl 4-methylthio-3-nitrobenzoate | 6.82 g | CSC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4S
solvent | methanol | 350 mL | CO | CH4O
catalyst | palladium on charcoal | 0.8 g | [Pd] | Pd
product | methyl 3-amino-4-(methylthio)benzoate | 3.5 g | NC=1C=C(C(=O)OC)C=CC1SC | C9H11NO2S
